US04370497
Tellurium tetrachloride (7.50 g, 28 mmol) and anisole (15 g, 139 mmol) were stirred at 180° for 18 h under a slow stream of nitrogen. After this time 48 mmol of hydrogen chloride had been evolved and the excess anisole was removed under high vacuum. The remaining brown solid was recrystallised from benzene to afford bis-(p-methoxyphenyl)tellurium dichloride (10.05 g, 88%), m.p. 181°-182° (lit., 181°-182°), δ(CDCl3) 8.01 (4H,d,J 9 Hz), 7.03 (4H,d,J 9 Hz) and 3.89 (6H,s).

reactant | Tellurium tetrachloride | 28 mmol, 7.50 g | [Te](Cl)(Cl)(Cl)Cl | Cl4Te
reactant | anisole | 139 mmol, 15 g | C1(=CC=CC=C1)OC | C7H8O
reactant | hydrogen chloride | 48 mmol | Cl | ClH
product | bis-(p-methoxyphenyl)tellurium dichloride | 10.05 g, 88% | COC1=CC=C(C=C1)[Te](C1=CC=C(C=C1)OC)(Cl)Cl | C14H14Cl2O2Te
